US06124323
1-[3-(4-Hydroxyphenyl)propyl]-4-benzylpiperidine hydrochloride
3-(4-Benzyloxyphenyl)prop-1-yl mesylate. To a solution of 3-(4-benzyloxyphenyl)propan-1-ol (9.76 g, 40 mmol) in 75 mL of methylene dichloride and 7.8 mL of triethylamine was added dropwise methanesulfonyl chloride (9.17 g, 80 mmol) at -20° C. The resulting mixture was allowed to stir at rt for 30 min. and was diluted with 100 mL of methylene dichloride. The solution was washed with 1M HCl (2×100 mL), saturated sodium bicarbonate solution (100 mL) and brine (50 mL), then was dried over MgSO4. Evaporation of solvent gave 12.2 g (95%) of the crude title compound as a white solid. 1H NMR (CDCl3) 2.042 (t, J=6.6 Hz, 2 H), 2.694 (t, J=7.5 Hz, 2 H), 2.984 (s, 3 H), 4.195 (t, J=6.0 Hz, 2 H), 5.045 (s, 2 H), 6.928 (d, J=8.4 Hz, 2 H), 7.116 (d, J=8.4 Hz, 2 H), 7.418 (m, 5 H).

reactant | 3-(4-Benzyloxyphenyl)prop-1-yl mesylate | S(C)(=O)(=O)OCCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C17H20O4S
reactant | 3-(4-benzyloxyphenyl)propan-1-ol | 40 mmol, 9.76 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCO | C16H18O2
reactant | methanesulfonyl chloride | 80 mmol, 9.17 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 7.8 mL | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-Hydroxyphenyl)propyl]-4-benzylpiperidine hydrochloride | 12.2 g, 95% | Cl.OC1=CC=C(C=C1)CCCN1CCC(CC1)CC1=CC=CC=C1 | InChI=1S/C21H27NO.ClH/c23-21-10-8-18(9-11-21)7-4-14-22-15-12-20(13-16-22)17-19-5-2-1-3-6-19;/h1-3,5-6,8-11,20,23H,4,7,12-17H2;1H
